US07390771B2
109.1 g (1 mol) of 2-aminophenol, 84.1 g (1 mol) of sodium bicarbonate, 900 mL of acetonitrile and 100 mL of water were added under room temperature into a 2 L flask with four inlets and attached with a stirrer and a thermometer. The internal temperature was cool down to 10° C. and 112.9 g (1 mol) of chloroacetyl chloride was added to the solution over a period of 3 hours and stirred for 3 hours at room temperature. Following to the completion of the reaction, 10 mL of methanol was added, and then acetonitrile was distilled out under reduced pressure and the resultant residue was subjected to recrystallization with toluene. Then, salt was taken out in a cleaning process using water to obtain 2-chloroacetyl-2-hydroxyaniline.

reactant | 2-aminophenol | 1 mol, 109.1 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium bicarbonate | 1 mol, 84.1 g | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 900 mL | C(C)#N | C2H3N
reactant | chloroacetyl chloride | 1 mol, 112.9 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 2-chloroacetyl-2-hydroxyaniline | ClCC(=O)NC1=C(C=CC=C1)O | C8H8ClNO2
